US04891363
2-Hydroxymethyl-7-(2-methoxyethoxy)methoxy-1-heptanol
A solution of 10.29 g of diethyl 2-[5-(2-methoxyethoxy)methoxypentyl]malonate (prepared as described in Preparation 61) dissolved in 100 ml of tetrahydrofuran was added dropwise to 2.40 g of lithium aluminum hydride dispersed in 100 ml of tetrahydrofuran, whilst ice-cooling (at 5° to 7° C.). The mixture was then stirred at room temperature for 3 hours, and then 9.60 ml of a 4% w/v aqueous solution of sodium hydroxide were added dropwise whilst maintaining the temperature at from 5° to 9° C. The mixture was stirred for 30 minutes at room temperature, after which it was filtered with a Celite filter aid, and the filtrate was concentrated by evaporation under reduced pressure. The residue was subjected to column chromatography through 105 g of silica gel, and 6.94 g of the title compound were obtained, as a colorless oil, from those fractions eluted with mixtures of methylene chloride and methanol ranging from 98:2 to 95:5 by volume.

reactant | diethyl 2-[5-(2-methoxyethoxy)methoxypentyl]malonate | 10.29 g | COCCOCOCCCCCC(C(=O)OCC)C(=O)OCC | C16H30O7
reactant | lithium aluminum hydride | 2.40 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2-Hydroxymethyl-7-(2-methoxyethoxy)methoxy-1-heptanol | 6.94 g | OCC(CO)CCCCCOCOCCOC | C12H26O5
